US07642270B2
8-Benzyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (7.6 mg, 0.015 mmol) was dissolved in MeOH (1 mL) and methylamine (1 mL of 1.0 M solution in THF, 1.0 mmol) was added and the reaction mixture was heated at 80° C. After 16 h, the solution was cooled to rt and purified by preparative HPLC (C-18 column; 32 mL/min 5-100% MeCN/H2O gradient over 15 mm) and lyophilized to provide 1.3 mg of 8-benzyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid methylamide. 1H NMR (TFA salt) (400 MHz, CDCl3) δ (ppm): 9.54 (br s, 1H), 9.25 (s, 1H), 8.70 (s, 1H), 7.23-7.30 (m, 5H), 7.13-7.15 (m, 2H), 6.83 (d, 2H, J=8.9 Hz), 5.35 (s, 2H), 3.13 (br s, 4H), 2.91 (s, 3H), 2.53 (br s, 4H), 2.30 (br s, 3H). Mass Spectrum (LCMS, ESI pos.) Calcd. for C27H29N7O2: 483.24, Found: 484.3 (M+H).

reactant | 8-Benzyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.015 mmol, 7.6 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)CC1=CC=CC=C1)=O | C28H30N6O3
reactant | methylamine | 1.0 mmol, 1.0 M, 1 mL | CN | CH5N
solvent | MeOH | 1 mL | CO | CH4O
product | 8-benzyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid methylamide | 1.3 mg | CNC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)CC1=CC=CC=C1)=O | C27H29N7O2
